US06117901
Synthesis of N-[(3,5-difluorophenyl)acetyl]alanine ethyl ester
Following General Procedure G and using 3,5-difluorophenylacetic acid (Aldrich) and alanine ethyl ester (Aldrich), the title compound was prepared as a solid with a melting point of 93°-95° C. The reaction was monitored by tlc on silica gel (Rf=0.8 in EtOAC) and purification was by chromatography on silica gel using EtOAc as the eluant followed by recrystallization from 1-chlorobutane.

reactant | 3,5-difluorophenylacetic acid | FC=1C=C(C=C(C1)F)CC(=O)O | C8H6F2O2
reactant | alanine ethyl ester | C(C)OC([C@@H](N)C)=O | C5H11NO2
product | N-[(3,5-difluorophenyl)acetyl]alanine ethyl ester | C(C)OC([C@@H](NC(CC1=CC(=CC(=C1)F)F)=O)C)=O | C13H15F2NO3
